US09260425B2
A mixture of 42 mg (0.12 mmol) of 3-cyclopentenyl-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine, 2.0 ml (21 mmol) of 1,4-cyclohexadiene and 100 mg of 10% palladium on carbon in 10 ml of ethanol was heated to reflux for 48 hours, during which 1,4-cyclohexadiene was added incrementally. The mixture was filtered through celite, and the filtrate was concentrated to afford 31 mg (76%) of 3-Cyclopentyl-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine. ESI MS m/z 349.2 (M+1).

reactant | 3-cyclopentenyl-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 0.12 mmol, 42 mg | C1(=CCCC1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)C2OCCCC2 | C21H22N4O
reactant | 1,4-cyclohexadiene | 21 mmol, 2.0 ml | C1=CCC=CC1 | C6H8
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-Cyclopentyl-5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 31 mg, 76% | C1(CCCC1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)C2OCCCC2 | C21H24N4O
